US05763599
A solution of diphosgene (1.7 ml, 14 mmol) in THF (10 ml, dist. over CaH2) was cooled by means of an ice bath to about 0° C. A solution of 2-chloro-2-(2-nitrophenyl)ethanol (705 mg, 3.5 mmol) and Et3N (354 mg, 0.485 ml, 3.5 mmol) in THF (10 ml, dist. over CaH2) was dropped thereto for about 30 min. After the solution had been stirred for a further hour, the ice bath was removed. The mixture was stirred for another 3 h at room temperature. The mixture was filtered over Celite. The precipitate was rewashed with THF (10 ml, dist. over CaH2). The combined filtrates were concentrated under reduced pressure and then dried in a high vacuum at room temperature. 2-chloro-2-(2-nitrophenyl)ethoxycarbonyl chloride (896 mg, 97%) was obtained as a light brown oil.

reactant | diphosgene | 14 mmol, 1.7 ml | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
reactant | 2-chloro-2-(2-nitrophenyl)ethanol | 3.5 mmol, 705 mg | ClC(CO)C1=C(C=CC=C1)[N+](=O)[O-] | C8H8ClNO3
reactant | Et3N | 3.5 mmol, 0.485 ml, 354 mg | CCN(CC)CC | C6H15N
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-chloro-2-(2-nitrophenyl)ethoxycarbonyl chloride | 896 mg, 97% | ClC(COC(=O)Cl)C1=C(C=CC=C1)[N+](=O)[O-] | C9H7Cl2NO4
